US05011623
Synthesis of 2-hexyloxypropyl 4-[4'-(11-acryloxyundecanyloxy)benzoyl]benzoate
0.500 g of 2-hexyloxypropyl 4-[4'-(11-acryloyloxyundecanoyloxy)benzoyl]benzoate and 3 mol % of azobisisobutyronitrile were added to 5 ml of dry toluene and degassed under freezing, followed by polymerization for 24 hours at 60° C. The product was repeatedly re-precipitated from methanol to obtain 0.32 g (yield: 64%) of the objective polymer, which showed the following physical properties.

reactant | 2-hexyloxypropyl 4-[4'-(11-acryloyloxyundecanoyloxy)benzoyl]benzoate | 0.500 g | C(C=C)(=O)OCCCCCCCCCCC(=O)OC1=CC=C(C(=O)C2=CC=C(C(=O)OCC(C)OCCCCCC)C=C2)C=C1 | C37H50O8
reactant | azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 2-hexyloxypropyl 4-[4'-(11-acryloxyundecanyloxy)benzoyl]benzoate | 0.32 g, yield: 64% | C(C=C)(=O)OCCCCCCCCCCCOC1=CC=C(C(=O)C2=CC=C(C(=O)OCC(C)OCCCCCC)C=C2)C=C1 | C37H52O7
